US06008230
To a stirred solution of benzimidazole (26.5 mg) in N,N-dimethylformamide (1 ml) was added sodium hydride (60% in oil, 8.6 mg) in an ice bath, and the mixture was stirred at the same temperature for half an hour. To this mixture was added 4-bromomethyl-8-(2,6-dichlorobenzoylamino)quinoline (80 mg) one portion, and the reaction mixture was stirred at the same temperature for half an hour and then at ambient temperature for one hour. Water was added thereto, and the resulting precipitate was collected by filtration. The solid was washed with hot 95% aqueous ethanol (1 ml) and allowed to cool to ambient temperature. The solid was collected by filtration and air-dried to give 4-(1H-benzimidazol-1-ylmethyl)-8-(2,6-dichlorobenzoylamino)quinoline (65 mg) as an off-white solid.

reactant | benzimidazole | 26.5 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | 8.6 mg | [H-].[Na+]
reactant | 4-bromomethyl-8-(2,6-dichlorobenzoylamino)quinoline | 80 mg | BrCC1=CC=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O | C17H11BrCl2N2O
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(1H-benzimidazol-1-ylmethyl)-8-(2,6-dichlorobenzoylamino)quinoline | 65 mg | N1(C=NC2=C1C=CC=C2)CC2=CC=NC1=C(C=CC=C21)NC(C2=C(C=CC=C2Cl)Cl)=O | C24H16Cl2N4O
